US05650410
A mixture of ethyl 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate (1.0 g), 2-(methylamino)pyridine (0.95 g) and 2-methoxyethanol (30 ml) was stirred under reflux for 17 hours. The reaction mixture was concentrated under reduced pressure. Water was added to the residue, and the resulting mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel. The fractions eluted with hexane - ethyl acetate (3:2, v/v) gave ethyl 4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-[N-methyl-N-(2-pyridyl)aminomethyl]quinoline-3-carboxylate (0.1 g, 9%). This compound was recrystallized from dichloromethane-ethanol. Pale yellow prisms, mp. 174°-175° C.

reactant | ethyl 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate | 1.0 g | ClCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C23H24ClNO6
reactant | 2-(methylamino)pyridine | 0.95 g | CNC1=NC=CC=C1 | C6H8N2
solvent | 2-methoxyethanol | 30 ml | COCCO | C3H8O2
product | ethyl 4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-[N-methyl-N-(2-pyridyl)aminomethyl]quinoline-3-carboxylate | 0.1 g, 9% | COC=1C=C(C=CC1OC)C1=C(C(=NC2=CC(=C(C=C12)OC)OC)CN(C1=NC=CC=C1)C)C(=O)OCC | C29H31N3O6
